US06936608B2
a) 3-(3-Bromophenyl)pyridine
This reaction was carried out as described in Example 37, step a, using 1,3-dibromobenzene (8.7 g, 36.8 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (4.0 g, 24.5 mmol) in ethanol (60 ml) for 14 h. The resulting crude residue was purified by column chromatography (silica gel, 80% Et2O/hexane) to yield the title compound (3.66 g, 64%): 1H NMR (360 MHz, CDCl3) δ 7.30-7.42 (2H, m), 7.47-7.60 (2H, m), 7.72 (1H, s), 7.84 (1H, dt, J 8.0, 2.0 Hz), 8.62 (1H, dd, J 4.8, 1.5 Hz), 8.83 (1H, s).

reactant | 1,3-dibromobenzene | 36.8 mmol, 8.7 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 24.5 mmol, 4.0 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(3-Bromophenyl)pyridine | 3.66 g, 64% | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
